US04284631
Bis(trimethylsilyl)acetamide (13.1 g.) was added dropwise to a stirred solution of 2-(2-aminothiazol-4-yl)-2-(2,4-dichlorobenzyloxyimino)acetic acid (syn isomer, 9.0 g.) in ethyl acetate (90 ml.) at room temperature and stirred at the same temperature for 10 minutes. 2,2,2-trifluoroacetic anhydride (19.5 g.) was added dropwise to a stirred solution at -10° C. over 10 minutes, and stirred at the same temperature for 20 minutes and further at 0° to 5° C. for 2 hours. To the reaction mixture were added water (100 ml.) and ethyl acetate (60 ml.) and then the solution was adjusted to pH 1.5 with sodium bicarbonate saturated aqueous solution. After extracted the solution with ethyl acetate, the extract was washed with sodium chloride saturated aqueous solution and dried over magnesium sulfate. The solution was concentrated in vacuo. The precipitates were washed with diisopropyl ether to give 2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]-2-(2,4-dichlorobenzyloxyimino)acetic acid (syn isomer, 10 g.), m.p. 170° to 176° C.

reactant | Bis(trimethylsilyl)acetamide | 13.1 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2-(2-aminothiazol-4-yl)-2-(2,4-dichlorobenzyloxyimino)acetic acid | 9.0 g | NC=1SC=C(N1)C(C(=O)O)=NOCC1=C(C=C(C=C1)Cl)Cl | C12H9Cl2N3O3S
reactant | 2,2,2-trifluoroacetic anhydride | 19.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]-2-(2,4-dichlorobenzyloxyimino)acetic acid | 10 g | FC(C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC1=C(C=C(C=C1)Cl)Cl)(F)F | C14H8Cl2F3N3O4S
